US06599902B2
Synthesis of 3-[1-[3,5-Dimethyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dimethyl-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one
A mixture of 5-[5-(2,6-dimethyl-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (120 mg, 0.26 mmol), morpholine (30 mg, 0.34 mmol), HOBt (42 mg, 1.2 eq.), EDAC.HCl (60 mg, 1.2 eq.) and TEA (80 mg, 3 eq.) in 0.2 M concentration of acetonitrile: DMF (3:1) was stirred at for overnight. The reaction was and purified on a silica gel column to give the titled compound.

reactant | 5-[5-(2,6-dimethyl-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.26 mmol, 120 mg | CC1=C(C(=CC=C1)C)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C25H24N2O5S
reactant | morpholine | 0.34 mmol, 30 mg | N1CCOCC1 | C4H9NO
reactant | HOBt | 42 mg, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 60 mg, 1.2 eq. | CCN=C=NCCCN(C)C.Cl
solvent | acetonitrile DMF | C(C)#N.CN(C)C=O
product | 3-[1-[3,5-Dimethyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dimethyl-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | CC1=C(NC(=C1C(=O)N1CCOCC1)C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1C)C)=O | C29H31N3O5S
